US07157488B2
3,3,3-Trifluoro-propyl tosylate
Add 3,3,3-trifluoropropan-1-ol (61.8 ml) and pyridine (224 ml). Cool to between 0° C. and 10° C. and add portion-wise p-toluenesulfonylchloride (147 g). Allow to warm to ambient temperature and stir overnight. Add HCl 0.5N (1.6 L), extract with ethyl acetate, combine the organic layers, dry over MgSO4, filter, and evaporate to give the title compound.

reactant | 3,3,3-trifluoropropan-1-ol | 61.8 ml | FC(CCO)(F)F | C3H5F3O
reactant | p-toluenesulfonylchloride | 147 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 224 ml | N1=CC=CC=C1 | C5H5N
product | 3,3,3-Trifluoro-propyl tosylate | S(=O)(=O)(OCCC(F)(F)F)C1=CC=C(C)C=C1 | C10H11F3O3S
